US03936470
A mixture of 11.2 parts of 1-[2-(4-chlorophenyl)ethyl]ethanediol, 15.6 parts of 2 -(bromomethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane, 4 parts of 4-methylbenzenesulfonic acid, 40 parts of butanol and 225 parts of methylbenzene is stirred and refluxed for 5 days with water-separator. The reaction mixture is evaporated and the residue is dissolved in 2,2'-oxybispropane. The solution is stirred with silica gel. The latter is filtered off and the filtrate is evaporated, yielding 2-(bromomethyl)-4-[2-(4-chlorophenyl)ethyl]2-(2,4-dichlorophenyl)-1,3-dioxolane as a residue.

reactant | 1-[2-(4-chlorophenyl)ethyl]ethanediol | ClC1=CC=C(C=C1)CCC(C)(O)O | C10H13ClO2
reactant | 2 -(bromomethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCCO1)C1=C(C=C(C=C1)Cl)Cl | C10H9BrCl2O2
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 2-(bromomethyl)-4-[2-(4-chlorophenyl)ethyl]2-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)CCC1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C18H16BrCl3O2
